US06982348B2
8) N-{(1RS,2SR)-2-[4-(benzyloxy)phenyl]-2-hydroxy-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide
To a solution of (1RS,2SR)-2-amino-1-[4-(benzyloxy)phenyl]-3-[3-(1,1,2,2-tetrafluoroethoxy)-phenyl]propan-1-ol (617 mg, 1.37 mmol) in acetonitrile (20 ml) were added 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (258 mg, 1.37 mmol), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (394 mg, 2.06 mmol) and 1-hydroxybenzotriazole hydrate (210 mg, 1.37 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. Recrystallization of the residue from ethyl acetate-hexane gave the objective substance (474 mg, 56%).

reactant | (1RS,2SR)-2-amino-1-[4-(benzyloxy)phenyl]-3-[3-(1,1,2,2-tetrafluoroethoxy)-phenyl]propan-1-ol | 1.37 mmol, 617 mg | NC(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C24H23F4NO3
reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 1.37 mmol, 258 mg | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 2.06 mmol, 394 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 1.37 mmol, 210 mg | O.ON1N=NC2=C1C=CC=C2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-{(1RS,2SR)-2-[4-(benzyloxy)phenyl]-2-hydroxy-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)O | C36H33F4NO4
